US08426448B2
Dissolve (±)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-1-(4-trifluoromethoxy-phenyl)-5-(3-trifluoromethyl-phenyl)-1,5-dihydro-pyrrol-2-one (5.89 g, 10.0 mmol) in acetic acid (30 mL) and add sodium cyanoborohydride (1.26 g, 20.0 mmol). Stir for 30 min at ambient temperature. Pour reaction mixture into a mixture of saturated sodium bicarbonate solution and ethyl acetate. Extract the aqueous layer with additional ethyl acetate. Combine the organic extracts and wash with brine, dry over sodium sulfate, filter and concentrate under reduced pressure. Purify by silica gel chromatography (45% EtOAc-hexane) to yield (±)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-1-(4-trifluoromethoxy-phenyl)-5-(3-trifluoromethyl-phenyl)-pyrrolidin-2-one (2.55 g, 43%) as a racemic mixture. LC-MS ESI m/z: 592.0 (M+H)+, Tr=2.63 min., method 2

reactant | (±)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-1-(4-trifluoromethoxy-phenyl)-5-(3-trifluoromethyl-phenyl)-1,5-dihydro-pyrrol-2-one | 10.0 mmol, 5.89 g | CC(C)(C1=NC(=CC=C1)C(F)(F)F)NC=1C(N(C(C1)C1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)=O | C27H20F9N3O2
reactant | sodium cyanoborohydride | 20.0 mmol, 1.26 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | (±)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-1-(4-trifluoromethoxy-phenyl)-5-(3-trifluoromethyl-phenyl)-pyrrolidin-2-one | 2.55 g, 43% | CC(C)(C1=NC(=CC=C1)C(F)(F)F)NC1C(N(C(C1)C1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)=O | C27H22F9N3O2
